US06165682
In a 250 ml, round bottom flask equipped with a reflux condenser and a gas inlet was combined maleic anhydride (8.85 g, 0.090 mol) and tetrahydrofuran (30 ml). The mixture was stirred under a N2 atmosphere until all the maleic anhydride was dissolved. To this solution was added allyltrimethylsilane (10.29 g, 0.090 mol), t-butyl acrylate (8.76 g, 0.068 mol), methyl acrylate (2.10 g, 0.024 mol) and 2,2'-azobisisobutyronitrile (0.148 g, 0.9 mmol). The mixture was heated to 64° C., and the mixture was stirred at this temperature for 18 h. The reaction mixture was cooled to room temperature and added dropwise to hexanes (500 ml). The precipitate was filtered, and the solid was dried in vacuo (12 mm Hg) at room temperature for 1 h. The solid was dissolved in tetrahydrofuran (50 ml), and the solution was added dropwise to hexanes (500 ml). The precipitate was filtered, and the solid was dried in vacuo (0.2 mm Hg) 50° C. for 16 h giving poly(maleic anhydride-allyltrimethylsilane-t-butyl acrylate-methyl acrylate) (22.6 g, 75.3%) as a white powder. 1H NMR (d6 -acetone, 250 MHz): 30.0 mol % maleic anhydride, 30.0 mol % allyltrimethylsilane, 25.4 mol % t-butyl acrylate, 14.8 mol % methyl acrylate. GPC (Waters Corp. liquid chromatograph [refractive index detection, Millenium GPC V software, Phenogel-10, 7.8×250 mm column: 10-4A, 500A&50A, THF eluent]): Mw =14, 921; Polydispersity=2.51; Rmin =about 0.1 Å/sec.

reactant | maleic anhydride | 0.090 mol, 8.85 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | allyltrimethylsilane | 0.090 mol, 10.29 g | C(C=C)[Si](C)(C)C | C6H14Si
reactant | t-butyl acrylate | 0.068 mol, 8.76 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | methyl acrylate | 0.024 mol, 2.10 g | C(C=C)(=O)OC | C4H6O2
reactant | 2,2'-azobisisobutyronitrile | 0.9 mmol, 0.148 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | maleic anhydride allyltrimethylsilane t-butyl acrylate methyl acrylate | C1(\C=C/C(=O)O1)=O.C(C=C)[Si](C)(C)C.C(C=C)(=O)OC(C)(C)C.C(C=C)(=O)OC | InChI=1S/C7H12O2.C6H14Si.C4H2O3.C4H6O2/c1-5-6(8)9-7(2,3)4;1-5-6-7(2,3)4;5-3-1-2-4(6)7-3;1-3-4(5)6-2/h5H,1H2,2-4H3;5H,1,6H2,2-4H3;1-2H;3H,1H2,2H3
